US07851473B2
4-(3-Phenyl-1,2,4-thiadiazol-5-yl)-N-pyridin-3-ylpiperazine-1-carbothioamide
To a solution of 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (246 mg, 1.00 mmol) and triethylamine (0.139 ml, 1.00 mmol) in tetrahydrofuran (6 ml) was added 3-pyridylisothiocyanate (0.167 ml, 1.50 mmol), the mixture was stirred at room temperature for 3 hours and the solvent was distilled off under reduced pressure. The residue was recrystallized from a mixed solvent of tetrahydrofuran and ethyl acetate to obtain the desired product (233 mg, 61.0%) as a solid.

reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 1.00 mmol, 246 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | triethylamine | 1.00 mmol, 0.139 ml | C(C)N(CC)CC | C6H15N
reactant | 3-pyridylisothiocyanate | 1.50 mmol, 0.167 ml | N1=CC(=CC=C1)N=C=S | C6H4N2S
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 4-(3-Phenyl-1,2,4-thiadiazol-5-yl)-N-pyridin-3-ylpiperazine-1-carbothioamide | 233 mg, 61.0% | C1(=CC=CC=C1)C1=NSC(=N1)N1CCN(CC1)C(NC=1C=NC=CC1)=S | C18H18N6S2
